US08138189B2
Step 5: 5-[2-(2-Chloro-5-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one
In analogy to Example 147, step 5, 5-[2-(2-chloro-5-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one was reacted with BBr3 to give the title compound as a light yellow foam. MS (m/e, ISP neg. ion)=360.0 [M−H+].

reactant | 5-[2-(2-chloro-5-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | ClC1=C(C=C(C=C1)OC)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C | C17H17ClF3NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
product | 5-[2-(2-Chloro-5-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | ClC1=C(C=C(C=C1)O)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C | C16H15ClF3NO3
